US05885999
b) (S)-1'-[2-Benzylamino-3-(3,4-dichlorobenzyloxy)propionyl]spiro[2H-1-benzopyran-2,4'-piperidine]-4-(3H)-one Hydrochloride
Methanolic hydrogen chloride (4M, 2 mL) was added to a stirred, cooled (0° C.) solution of (S)-1'-[2-t-butoxycarbonylamino-3-(3,4-dichlorobenzyloxy)propionyl]spiro[2H-1-benzopyran-2,4'-piperidine]-4-(3H)-one (243 mg, 0.43 mmol) in methanol (2 mL) and the mixture was stirred at room temperature for 5 h. The solvent was evaporated under reduced pressure, dichloromethane (5 mL), triethylamine (0.120 mL, 87 mg, 0.86 mmol), benzaldehyde (0.052 mL, 55 mg, 0.52 mmol) and magnesium sulfate (300 mg) were added. The mixture was stirred at room temperature for 4 h., filtered and the solvent was evaporated under reduced pressure. Methanol (5 mL) and sodium cyanoborohydride (54 mg, 0.86 mmol) were added. The mixture was stirred at room temperature for 1 h., aqueous sodium hydrogen carbonate (saturated, 20 mL) and water (10 mL) were added and the mixture was extracted with dichloromethane (3×20 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. Methanol (25 mL) was added and the volume was reduced to 10 mL by distillation. The remaining solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH/NH3 (Aq.) (99:1:0.1 increasing to 97:3:0.3). The residue was dissolved in methanol (5 mL), cooled to 0° C. and methanolic hydrogen chloride (1M, 0.23 mL) was added. The solvent was evaporated under reduced pressure and the residue was triturated with ether (5 mL). The solid was collected and dried in vacuo to give the title compound as a colorless solid (126 mg, 50%), mp. 173°-175° C. Found: C, 59.92; H, 5.14; N, 4.32. C30H30Cl2N2O4.HCl.0.5H2O requires: C, 60.16; H, 5.39; N, 4.68%. m/e (ES+) 553 (MH+).

reactant | hydrogen chloride | 4M, 2 mL | Cl | ClH
reactant | (S)-1'-[2-t-butoxycarbonylamino-3-(3,4-dichlorobenzyloxy)propionyl]spiro[2H-1-benzopyran-2,4'-piperidine]-4-(3H)-one | 0.43 mmol, 243 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1CCC2(CC1)OC1=C(C(C2)=O)C=CC=C1)COCC1=CC(=C(C=C1)Cl)Cl | C28H32Cl2N2O6
reactant | triethylamine | 0.86 mmol, 0.120 mL, 87 mg | C(C)N(CC)CC | C6H15N
reactant | benzaldehyde | 0.52 mmol, 0.052 mL, 55 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | magnesium sulfate | 300 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium cyanoborohydride | 0.86 mmol, 54 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | Methanol | 5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-1'-[2-Benzylamino-3-(3,4-dichlorobenzyloxy)propionyl]spiro[2H-1-benzopyran-2,4'-piperidine]-4-(3H)-one Hydrochloride | 126 mg, 50% | Cl.C(C1=CC=CC=C1)N[C@H](C(=O)N1CCC2(CC1)OC1=C(C(C2)=O)C=CC=C1)COCC1=CC(=C(C=C1)Cl)Cl | InChI=1S/C30H30Cl2N2O4.ClH/c31-24-11-10-22(16-25(24)32)19-37-20-26(33-18-21-6-2-1-3-7-21)29(36)34-14-12-30(13-15-34)17-27(35)23-8-4-5-9-28(23)38-30;/h1-11,16,26,33H,12-15,17-20H2;1H/t26-;/m0./s1
